US04129591
6,6'-[5-Amino-1,3-phenylenebis(carbonylimino)]bis[1,3-naphthalenedisulfonic acid] tetrasodium salt
To a solution of 13.49 g of 6,6'-[5-nitro-1,3-phenylenebis(carbonylimino)]bis[1,3-naphthalenedisulfonic acid] tetrasodium salt in 200 ml of water at 65° C. is added 6.42 g of sodium sulfide nonahydrate. After heating on the steam bath at 70° to 75° C. the solution is cooled, acidified with acetic acid and filtered. The filtrate is adjusted to pH 6 with 5N sodium hydroxide solution and concentrated to small volume. The solution is diluted with absolute ethanol and filtered to give the title compound.

reactant | 6,6'-[5-nitro-1,3-phenylenebis(carbonylimino)]bis[1,3-naphthalenedisulfonic acid] tetrasodium salt | 13.49 g | [Na+].[Na+].[Na+].[Na+].[N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC=1C=C2C=C(C=C(C2=CC1)S(=O)(=O)[O-])S(=O)(=O)[O-])C(=O)NC=1C=C2C=C(C=C(C2=CC1)S(=O)(=O)[O-])S(=O)(=O)[O-]
reactant | sodium sulfide nonahydrate | 6.42 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | 6,6'-[5-Amino-1,3-phenylenebis(carbonylimino)]bis[1,3-naphthalenedisulfonic acid] tetrasodium salt | [Na+].[Na+].[Na+].[Na+].NC=1C=C(C=C(C1)C(=O)NC=1C=C2C=C(C=C(C2=CC1)S(=O)(=O)[O-])S(=O)(=O)[O-])C(=O)NC=1C=C2C=C(C=C(C2=CC1)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C28H21N3O14S4.4Na/c29-18-6-16(27(32)30-19-1-3-23-14(8-19)10-21(46(34,35)36)12-25(23)48(40,41)42)5-17(7-18)28(33)31-20-2-4-24-15(9-20)11-22(47(37,38)39)13-26(24)49(43,44)45;;;;/h1-13H,29H2,(H,30,32)(H,31,33)(H,34,35,36)(H,37,38,39)(H,40,41,42)(H,43,44,45);;;;/q;4*+1/p-4
